US08461164B2
A mixture of 4-benzyloxyphenol (9.4 g, 47 mmol), bromoacetonitrile (6.8 g, 56.7 mmol) in acetone (50 mL) with K2CO3 (2 g, 14.5 mmol) was heated to reflux 1 min, then at 40° C. for 1 h with stirring. The reaction mixture was filtered, the solids washed with acetone, and the filtrate concentrated in vacuo to afford a tan oil which crystallized on standing, providing 10.70 g of (4-benzyloxyphenoxy)-acetonitrile.

reactant | 4-benzyloxyphenol | 47 mmol, 9.4 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)O | C13H12O2
reactant | bromoacetonitrile | 56.7 mmol, 6.8 g | BrCC#N | C2H2BrN
reactant | K2CO3 | 14.5 mmol, 2 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | 50 mL | CC(=O)C | C3H6O
product | (4-benzyloxyphenoxy)-acetonitrile | 10.70 g | C(C1=CC=CC=C1)OC1=CC=C(OCC#N)C=C1 | C15H13NO2
